US05565449
To a stirred solution of 10.0 g (59.8 mmol) of 5-hydroxy-2-nitrobenzaldehyde and 12.3 g (62.8 mmol) of a-bromo-p-tolylnitrile in 50 ml of dry dimethyl-formamide was added 9.10 g (65.8 g) of anhydrous potassium carbonate. The mixture was warmed to 50° C. for 2 h and partitioned between water and ethyl acetate. The organic phase was washed with 1N sodium bicarbonate, water, brine, and dried over anhydrous magnesium sulfate. Concentration gave 13.8 g (82%) of 5-(4-cyanobenzyloxy)-2-nitrobenzaldehyde. 1H NMR (300 MHz, d6 -acetone) d 10.39 (1H, s, Ar-CHO), 8.23 (1H, d, J=9.0 Hz, O-Ar-H), 7.85 (2H, d, J=8.3 Hz, NC-Ar-H2), 7.77 (2H, d, J=8.3 Hz, NC-Ar-H2), 7.48 (1H, dd, J=9.0, 2.9 Hz, O-Ar-H), 7.43 (1H, d, J=2.9 Hz, O-Ar-H), 5.50 (2H, s, ArCH2O).

reactant | 5-hydroxy-2-nitrobenzaldehyde | 59.8 mmol, 10.0 g | OC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H5NO4
reactant | potassium carbonate | 9.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl-formamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-(4-cyanobenzyloxy)-2-nitrobenzaldehyde | 13.8 g, 82% | C(#N)C1=CC=C(COC=2C=CC(=C(C=O)C2)[N+](=O)[O-])C=C1 | C15H10N2O4
